US06048876
Synthesis of (E)-4-[2-(4-fluorophenyl)methylphenyl]-(3-phenyl-2-propenyl)-1,2,3,6-tetrahydropyridine (34)
The same procedure was followed as in Example 11 using 4-[2-(4-fluorophenyl)methylphenyl]-1,2,3,6-tetrahydropyridine and cinnamyl bromide to produce the above.

reactant | 4-[2-(4-fluorophenyl)methylphenyl]-1,2,3,6-tetrahydropyridine | FC1=CC=C(C=C1)CC1=C(C=CC=C1)C=1CCNCC1 | C18H18FN
reactant | cinnamyl bromide | C(C=CC1=CC=CC=C1)Br | C9H9Br
product | (E)-4-[2-(4-fluorophenyl)methylphenyl]-(3-phenyl-2-propenyl)-1,2,3,6-tetrahydropyridine | FC1=CC=C(C=C1)CC1=C(C=CC=C1)C=1CCN(CC1)C\C=C\C1=CC=CC=C1 | C27H26FN
